US05804585
A. Thieno [2,3-b]pyridine-3-sulfonyl chloride
A solution of thieno[2,3-b]pyridine (0.70 g, 5.2 mmoles), prepared as described in Example 1 (A), in chlorosulfonic acid, (7 ml) was heated to 100° C. for 15 minutes, then cooled to ambient temperature and added to ice (100 ml). The pH of the aqueous phase as adjusted to 8 with sat. NaHCO3, then extracted with CHCl3 (2×125 ml). The organic phase was dried (MgSO4), filtered and concentrated to collect 0.95 g (78%) of the title compound as a tan solid.

reactant | thieno[2,3-b]pyridine | 5.2 mmoles, 0.70 g | S1C=CC=2C1=NC=CC2 | C7H5NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | chlorosulfonic acid | 7 ml | ClS(=O)(=O)O | ClHO3S
product | Thieno [2,3-b]pyridine-3-sulfonyl chloride | S1C=C(C=2C1=NC=CC2)S(=O)(=O)Cl | C7H4ClNO2S2
